US05143918
Treatment of 17-ethyl-1-hydroxy-14-triisopropylsilyloxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone with diethylaminosulfur trifluoride (DAST) in THF followed by 48% aqueous HF/acetonitrile deblocking as in Example 64, yielded 17-ethyl-1,14-dihydroxy-12-[2'-(4"-fluoro-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone.

reactant | 17-ethyl-1-hydroxy-14-triisopropylsilyloxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O[Si](C(C)C)(C(C)C)C(C)C)=O | C52H89NO12Si
reactant | diethylaminosulfur trifluoride | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | acetonitrile | C(C)#N | C2H3N
solvent | THF | C1CCOC1 | C4H8O
product | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-fluoro-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)F)OC)C)C)O)=O | C43H68FNO11
